US06335341B1
Ethyl acetate saturated with gaseous HCl (50 ml) was added to a solution of 1-tert-butoxycarbonyl-4-[4-(4-pyridyl)-1-piperidylmethyl]piperidine (1.65 g) in ethyl acetate (25 ml) and the resulting suspension stirred at ambient temperature for 3 hours. Solvent was evaporated to give 4-[4-(4-pyridyl)-1-piperidylmethyl]piperidine trihydrochloride (1.60 g) as a colourless foam.

reactant | HCl | 50 ml | Cl | ClH
reactant | 1-tert-butoxycarbonyl-4-[4-(4-pyridyl)-1-piperidylmethyl]piperidine | 1.65 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1CCC(CC1)C1=CC=NC=C1 | C21H33N3O2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 4-[4-(4-pyridyl)-1-piperidylmethyl]piperidine trihydrochloride | 1.60 g | Cl.Cl.Cl.N1=CC=C(C=C1)C1CCN(CC1)CC1CCNCC1 | InChI=1S/C16H25N3.3ClH/c1-7-17-8-2-14(1)13-19-11-5-16(6-12-19)15-3-9-18-10-4-15;;;/h3-4,9-10,14,16-17H,1-2,5-8,11-13H2;3*1H
